US07067508B2
2-(tritylsulfanyl)-1-ethaneamine (0.5 g, 1.6 mmol) was dissolved in methylene chloride (10 ml) and added with triethylamine (0.22 ml, 1.6 mmol). To the solution, bromoacetylbromide (0.14 ml, 1.6 mmol) in methylene chloride (1 ml) was added dropwise. The resulting solution was stirred at room temperature for 15 min and added with water (30 ml). The organic phase was washed with 1 M hydrogen chloride, water, saturated sodium bicarbonate aqueous solution, and saturated sodium chloride aqueous solution in sequence. The organic phase was dried over anhydrous sodium sulfate and distilled under reduced pressure to obtain a white solid of N1-(2(tritylsulfanyl)ethyl)-2-bromoacetamide (0.67 g, 1.51 mmol, 94.2%).

reactant | 2-(tritylsulfanyl)-1-ethaneamine | 1.6 mmol, 0.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCCN | C21H21NS
reactant | triethylamine | 1.6 mmol, 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | bromoacetylbromide | 1.6 mmol, 0.14 ml | BrCC(=O)Br | C2H2Br2O
reactant | water | 30 ml | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | N1-(2(tritylsulfanyl)ethyl)-2-bromoacetamide | 1.51 mmol, 0.67 g, 94.2% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCCNC(CBr)=O | C23H22BrNOS
